US05648373
2-(8-Bromooctyl)-4,5-diphenyltriazole (7 g) in dimethylsulphoxide (220 ml) was added to a suspension of sodium cyanide (1 g) in dimethylsulphoxide (60 ml) over 15 minutes. The reaction mixture was stirred at 24° C. for 1 hour and at 50° C. for 2 hours. The cooled reaction mixture was poured into water (600 ml), extracted with diethyl ether (4×200 ml). The extracts were combined, washed with water (100 ml), dried over anhydrous magnesium sulphate and evaporated to dryness in vacuo. Column chromatography on silica gel eluted with a hexane:ethyl acetate gradient gave 2-(8-cyanooctyl)-4,5-diphenyl-triazole (5.6 g, 92%) as an oil.

reactant | 2-(8-Bromooctyl)-4,5-diphenyltriazole | 7 g | BrCCCCCCCCN1N=C(C(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C22H26BrN3
reactant | sodium cyanide | 1 g | [C-]#N.[Na+]
reactant | water | 600 ml | O | H2O
solvent | dimethylsulphoxide | 220 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 60 ml | CS(=O)C | C2H6OS
product | 2-(8-cyanooctyl)-4,5-diphenyl-triazole | 5.6 g, 92% | C(#N)CCCCCCCCN1N=C(C(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C23H26N4
